US06506901B2
Step A: 1-(4,4,4-Trifluorobutyl)-piperidine-4-carboxamide
Prepared from isonipecotamide (0.422 g, 3.3 mmol), 4,4,4-trifluorobutyliodide (0.82 g, 3.4 mmol) and potassium carbonate (0.47 g, 3.4 mmol) according to the procedure used for Example 8 (Step A) to give 0.84 g of the title compound as a white solid.

reactant | isonipecotamide | 3.3 mmol, 0.422 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | 4,4,4-trifluorobutyliodide | 3.4 mmol, 0.82 g | FC(CCCI)(F)F | C4H6F3I
reactant | potassium carbonate | 3.4 mmol, 0.47 g | C([O-])([O-])=O.[K+].[K+]
product | 1-(4,4,4-Trifluorobutyl)-piperidine-4-carboxamide | 0.84 g | FC(CCCN1CCC(CC1)C(=O)N)(F)F | C10H17F3N2O
